US09212190B2
To a 250-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was added a solution of oxalic dichloride (2.52 g, 19.85 mmol, 1.98 equiv) in 40 mL of anhydrous dichloromethane. This solution was cooled to −78° C. under nitrogen. A solution of DMSO (1.56 g, 19.97 mmol, 1.99 equiv) in dichloromethane (10 mL) was added dropwise with stirring at −78° C. and the resulting solution was stirred for 20 min at −78° C. A solution of 2-(4-hydroxybutyl)-2,3-dihydro-1H-isoindole-1,3-dione (2.2 g, 10.03 mmol, 1.00 equiv) in 20 mL of dichloromethane was added dropwise with stirring. Stirring was continued for 20 min at −78° C., and then TEA (8.1 g, 80.20 mmol, 7.99 equiv) was added via syringe at the same temperature. The resulting solution was allowed to react, with stirring, for an additional 60 min at 0° C. After completion, the resulting mixture was diluted with 1 M aqueous hydrochloric acid, extracted with DCM, washed with 3×100 mL of brine, dried over sodium sulfate and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:1) to provide the desired 4-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)butanal (1.9 g, 87%) as a white solid. MS (ES): m/z 218 (M+H)+.

reactant | oxalic dichloride | 19.85 mmol, 2.52 g, 1.98 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 19.97 mmol, 1.56 g, 1.99 equiv | CS(=O)C | C2H6OS
reactant | 2-(4-hydroxybutyl)-2,3-dihydro-1H-isoindole-1,3-dione | 10.03 mmol, 2.2 g, 1.00 equiv | OCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H13NO3
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 1 M | Cl | ClH
product | 4-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)butanal | 1.9 g, 87% | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
